US05854245
To a 100 mL round bottomed flask with a stirring bar and an argon inlet was added ethyl 2-(4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylcarbonylamino)-3-methylphenoxy)acetate (1.22 g, 2.45 mmol) and 20 mL of CH3OH. To this solution was added aqueous NaOH (10 mL of a 1N solution). The mixture was stirred at ambient temperature for 18 h. The mixture was neutralized with 10 mL of 1N HCl and diluted with H2O. The product was collected on a frit and washed with a little H2O. This material was dried in vacuo to give 0.953 g (83%) of 2-(4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylcarbonylamino)-3-methylphenoxy)acetic acid as a white solid.

reactant | ethyl 2-(4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylcarbonylamino)-3-methylphenoxy)acetate | 2.45 mmol, 1.22 g | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=O)NC1=C(C=C(OCC(=O)OCC)C=C1)C)C | C27H35N3O6
reactant | CH3OH | 20 mL | CO | CH4O
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | H2O | O | H2O
product | 2-(4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylcarbonylamino)-3-methylphenoxy)acetic acid | 0.953 g, 83% | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=O)NC1=C(C=C(OCC(=O)O)C=C1)C)C | C25H31N3O6
